US08203003B2
Into a solution of trimethylsilyl (2S,4R)—N-(trimethylsilyl)-4-(trimethylsilyloxy)-pyrrolidine-2-carboxylate (6.95 g, 20.0 mmol) in 15 ml of anhydrous dichloromethane was drop wise added a solution of bromoacetyl fluoride (2.82 g, 20.0 mmol) in 5 ml of dichloromethane with vigorous stirring at room temperature. Exothermic reaction occurred with liberation of Me3SiF. The reaction mixture was stirred at room temperature for 2 h and then the reaction mixture was evaporated to dryness at reduced pressure, which gave 7.53 g (yield 95%) of trimethylsilyl (2S,4R)—N-(bromoacetyl)-4-(trimethylsilyloxy)pyrrolidine-2-carboxylate as off-white solid: 1H-NMR (CDCl3) δ 0.04 (m, 9H), 0.21 (m, 9H), 1.80-2.4 (m, 2H), 3.3-3.6 (m, 1H), 3.61-3.80 (m, 2H), 4.3-4.6 (m, 2H); 13C-NMR (CDCl3) δ −0.27 (CSi), −0.01 (CSi), 26.94, 38.04, 55.71, 59.26, 70.33, 165.28, 171.82.

reactant | trimethylsilyl (2S,4R)—N-(trimethylsilyl)-4-(trimethylsilyloxy)-pyrrolidine-2-carboxylate | 20.0 mmol, 6.95 g | C[Si](N1[C@@H](C[C@H](C1)O[Si](C)(C)C)C(=O)O[Si](C)(C)C)(C)C | C14H33NO3Si3
reactant | bromoacetyl fluoride | 20.0 mmol, 2.82 g | BrCC(=O)F | C2H2BrFO
reactant | Me3SiF | [Si](C)(C)(C)F | C3H9FSi
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | trimethylsilyl (2S,4R)—N-(bromoacetyl)-4-(trimethylsilyloxy)pyrrolidine-2-carboxylate | 7.53 g, yield 95% | BrCC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C)C(=O)O[Si](C)(C)C | C13H26BrNO4Si2
